US07423159B2
A mixture of 1-bromo-3-(4-nitrophenyl)-2-propanone (0.80 g), thioacetamide (0.23 g) and ethanol (20 mL) was heated under reflux for 2 hrs. The reaction mixture was concentrated, and saturated aqueous sodium hydrogen carbonate was added to the residue. The mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, dried over anhydrous magnesium sulfate and concentrated. The residue was subjected to silica gel column chromatography to give 2-methyl-4-(4-nitrobenzyl)-1,3-thiazole as pale-yellow crystals (0.58 g, yield 79%) from a fraction eluted with hexane-ethyl acetate (3:1-2:1, v/v). Recrystallization thereof from ethyl acetate-hexane gave pale-yellow prism crystals. melting point: 118-119° C.

reactant | 1-bromo-3-(4-nitrophenyl)-2-propanone | 0.80 g | BrCC(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C9H8BrNO3
reactant | thioacetamide | 0.23 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-methyl-4-(4-nitrobenzyl)-1,3-thiazole | 0.58 g, yield 79% | CC=1SC=C(N1)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H10N2O2S
